US06384234B1
Preparation of N-[4-Chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]acetamide
1000 g of crude N-(5-amino-4-chloro-2-fluorophenyl)acetamide (4.93 mol) which still contained 1 L of ethyl acetate was dissolved in 3900 g (49.3 mol) of pyridine at 20° C. To the yellow solution was added 845 g (5.42 mol) of chloromethanesulfonyl chloride at 20-30° C. over 1-2 hours. The solution was allowed to stir for 1 additional hour. 2300 g of pyridine were distilled off under reduced pressure at 40° C. To the remaining reaction mixture were added 5.3 L of water and 1.7 L of concentrated HCl (pH 3) whereupon the product precipitated. The slurry was cooled to 20° C. and filtered off. The filter cake was washed twice with 1300 mL of water. The product was dried in vacuo at 70° C. to yield 1500 g (92% purity) of the title compound as a solid melting at 210° C.

reactant | N-(5-amino-4-chloro-2-fluorophenyl)acetamide | 4.93 mol, 1000 g | NC=1C(=CC(=C(C1)NC(C)=O)F)Cl | C8H8ClFN2O
reactant | pyridine | 49.3 mol, 3900 g | N1=CC=CC=C1 | C5H5N
reactant | chloromethanesulfonyl chloride | 5.42 mol, 845 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | HCl | 1.7 L, pH 3 | Cl | ClH
solvent | water | 5.3 L | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | N-[4-Chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]acetamide | ClC1=CC(=C(C=C1NS(=O)(=O)CCl)NC(C)=O)F | C9H9Cl2FN2O3S
